US07429609B2
1-Dimethylaminomethyl-cyclopropane carboxylic acid
To a solution of 222 mg of 1-dimethylaminomethyl-cyclopropane carboxylic acid ethyl ester in 0.4 mL of ethanol was added 0.1 mL of 5N sodium hydroxide aqueous solution, and stirred overnight at room temperature. The reaction solution was added with 0.5 mL of 1N hydrochloric acid, and the solvent and water were evaporated, to give 78 mg of a mixture of the title compound and sodium chloride as a white powder.

reactant | 1-dimethylaminomethyl-cyclopropane carboxylic acid ethyl ester | 222 mg | C(C)OC(=O)C1(CC1)CN(C)C | C9H17NO2
reactant | sodium hydroxide | 5N, 0.1 mL | [OH-].[Na+]
reactant | hydrochloric acid | 1N, 0.5 mL | Cl | ClH
solvent | ethanol | 0.4 mL | C(C)O | C2H6O
product | 1-Dimethylaminomethyl-cyclopropane carboxylic acid | 78 mg | CN(C)CC1(CC1)C(=O)O | C7H13NO2
